US05929085
To a pressure bottle charged with 3-ethyl-7-nitro-3,4-dihydroisoquinoline (3.6 g, 17 mmols) dissolved in methanol (100 ml) and saturated isopropanol-HCl (20 ml) was added 10% Pd-C (250 mg), and the reaction hydrogenated for 1 h. The catalyst was removed by filtration and the solvent evaporated to yield 3-ethyl-1,2,3,4-tetrahydroisoquinolin-7-amine dihydrochloride (4.3 g).

reactant | 3-ethyl-7-nitro-3,4-dihydroisoquinoline | 17 mmols, 3.6 g | C(C)C1N=CC2=CC(=CC=C2C1)[N+](=O)[O-] | C11H12N2O2
reactant | isopropanol-HCl | 20 ml | Cl.C(C)(C)O
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd-C | 250 mg | [Pd] | Pd
product | 3-ethyl-1,2,3,4-tetrahydroisoquinolin-7-amine dihydrochloride | 4.3 g | Cl.Cl.C(C)C1NCC2=CC(=CC=C2C1)N | InChI=1S/C11H16N2.2ClH/c1-2-11-6-8-3-4-10(12)5-9(8)7-13-11;;/h3-5,11,13H,2,6-7,12H2,1H3;2*1H
